US07517910B2
5-(2-phenylethyl)-3-[4-(trifluoromethyl)phenyl]-1H-pyrazole
5-[(E)-2-Phenylvinyl]-3-[4-(trifluoromethyl)phenyl]-1H-pyrazole (1.56 g, 4.96 mmol) was dissolved in a mixed solvent of tetrahydrofuran (30 mL) and ethanol (30 mL), 10% palladium-carbon (50% water-containing product, 500 mg) was added, and the mixture was stirred at room temperature under an atmospheric hydrogen atmosphere for 2 hr. The catalyst was filtered off and the filtrate was concentrated to give the title compound (880 mg, yield 56%) as colorless crystals. MS: m/z 317 (MH+).

reactant | 5-[(E)-2-Phenylvinyl]-3-[4-(trifluoromethyl)phenyl]-1H-pyrazole | 4.96 mmol, 1.56 g | C1(=CC=CC=C1)/C=C/C1=CC(=NN1)C1=CC=C(C=C1)C(F)(F)F | C18H13F3N2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 500 mg | [C].[Pd]
product | 5-(2-phenylethyl)-3-[4-(trifluoromethyl)phenyl]-1H-pyrazole | 880 mg, yield 56% | C1(=CC=CC=C1)CCC1=CC(=NN1)C1=CC=C(C=C1)C(F)(F)F | C18H15F3N2
